US04546101
To a solution of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate-1-oxide (syn isomer) (trans isomer) (1.8 g) in N,N-dimethylformamide (18 ml) was added phosphorus trichloride (0.45 ml) at -30° C. with stirring. The reaction mixture was stirred at -15° to -10° C. for 30 minutes and added dropwise to ice-water (100 ml). The suspension was adjusted to pH 7.5 with saturated aqueous sodium bicarbonate. The precipitate was collected by filtration, washed with water, dried under reduced pressure, and subjected to column chromatography on silica gel to give benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)-acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (0.9 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate-1-oxide | 1.8 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CC=2N=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C33H27N7O7S2
reactant | phosphorus trichloride | 0.45 ml | P(Cl)(Cl)Cl | Cl3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)-acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate | 0.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2N=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C33H27N7O6S2
